US05580863
With 4-nitrobenzylphosphonic acid and 2-methyl-1,3-propanediol, the same procedure as in Reference Example 11 was followed, to yield 5-methyl-2-(4-nitrobenzyl)-1,3,2-dioxaphosphorinane-2-oxide, which was then recrystallized from ethanol-hexane to yield colorless prisms having a melting point of170° to 171° C.

reactant | 4-nitrobenzylphosphonic acid | [N+](=O)([O-])C1=CC=C(CP(O)(O)=O)C=C1 | C7H8NO5P
reactant | 2-methyl-1,3-propanediol | CC(CO)CO | C4H10O2
product | 5-methyl-2-(4-nitrobenzyl)-1,3,2-dioxaphosphorinane-2-oxide | CC1COP(OC1)(CC1=CC=C(C=C1)[N+](=O)[O-])=O | C11H14NO5P
